US08802690B2
To a 2 L three necked flask was added methyl 2-acetylisonicotinate (160 g, 0.894 mol), dimethylformamide-dimethylacetamide (350 mL) and toluene (350 mL). The mixture was refluxed for about 5 hours with a Dean-Stark trap to remove methanol produced. Additional dimethylformamide-dimethylacetamide and toluene was added to keep the reaction volume at about 800-900 mL. When liquid chromatography-mass spectrometry showed reaction completed, the solvent was removed to yield crude (Z)-methyl 2-(3-(dimethylamino)acryloyl)isonicotinate as a dark solid. The crude solid was directly used in the next step.

reactant | methyl 2-acetylisonicotinate | 0.894 mol, 160 g | C(C)(=O)C=1C=C(C(=O)OC)C=CN1 | C9H9NO3
reactant | dimethylformamide dimethylacetamide | 350 mL | CN(C=O)C.CC(=O)N(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | (Z)-methyl 2-(3-(dimethylamino)acryloyl)isonicotinate | CN(\C=C/C(=O)C=1C=C(C(=O)OC)C=CN1)C | C12H14N2O3
